US08309580B2
3-[(4-{cyclohexyl[5-(2,4-dichlorophenyl)-2-methyl-3-furyl]methoxy}benzoyl)(methyl)amino]propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-{cyclohexyl[5-(2,4-dichlorophenyl)-2-methyl-3-furyl]methoxy}benzoic acid (165 mg) as well as ethyl 3-(methylamino)propanoate (56 mg) to give the title compound (192 mg, 98%) as an amorphous compound.

reactant | 4-{cyclohexyl[5-(2,4-dichlorophenyl)-2-methyl-3-furyl]methoxy}benzoic acid | 165 mg | C1(CCCCC1)C(OC1=CC=C(C(=O)O)C=C1)C1=C(OC(=C1)C1=C(C=C(C=C1)Cl)Cl)C | C25H24Cl2O4
reactant | ethyl 3-(methylamino)propanoate | 56 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-[(4-{cyclohexyl[5-(2,4-dichlorophenyl)-2-methyl-3-furyl]methoxy}benzoyl)(methyl)amino]propanoic acid | 192 mg, 98% | C1(CCCCC1)C(OC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1)C1=C(OC(=C1)C1=C(C=C(C=C1)Cl)Cl)C | C29H31Cl2NO5
